US07176242B2
tert-Butyl (1S)-2-(cyclohexyl)-1-[(2S)-oxiran-2-yl]ethylcarbamate (225 mg, 0.84 mmol) was refluxed with m-bromobenzylamine (380 mg, 2.0 mmol) in 7 mL of isopropanol under nitrogen for 2 h, the solvent was removed in vacuo, and the residue was dissolved in ethyl acetate. It was washed three times with small portions of 10% HCl, and the aqueous phases were back-extracted with ethyl acetate. The combined organic phases were washed with 1 N NaHCO3 and brine, dried over Na2SO4, and concentrated. The resulting oil (356 mg) was dissolved in 3 mL of dichloromethane and 2 mL of TFA and stirred for 1.5 h. It was concentrated, and by weight determined to contain 3 eq. of TFA. To this was added 2 mL of dry dimethylformamide (DMF) and 0.35 mL (3.2 mmol) of 4-methyl morpholine. To this was added a pre-mixed solution of 3-[(dipropylamino)carbonyl]-5-methylbenzoic acid (240 mg, 0.9 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC, 190 mg, 1 mmol), and 1-hydroxybenzotriazole hydrate (HOBT, 135 mg, 1 mmol) in 3 mL of dry DMF, which had been stirring together for 1.5 h. After 3 days the reaction was quenched with 1 N KH2PO4 and dissolved in ethyl acetate. The organic phase was washed with 1 N KH2PO4, 1 N NaHCO3 (2×) and brine, dried over Na2SO4, and concentrated. Chromatography over silica gel, eluting with 5% methanol (containing 1% NH4OH) in dichloromethane afforded 208 mg (0.32 mmol) of N1-[(1S,2R)-3-[(3-bromobenzyl)amino]-1-(cyclohexylmethyl)-2-hydroxypropyl]-5-methyl-N3,N3-dipropylisophthalamide hydrochloride (EXAMPLE SP-257) after formation of the salt with ethereal HCl: CI MS m/z 600 [M+H]+.

reactant | tert-Butyl (1S)-2-(cyclohexyl)-1-[(2S)-oxiran-2-yl]ethylcarbamate | 0.84 mmol, 225 mg | C1(CCCCC1)C[C@@H]([C@@H]1OC1)NC(OC(C)(C)C)=O | C15H27NO3
reactant | m-bromobenzylamine | 2.0 mmol, 380 mg | BrC=1C=C(CN)C=CC1 | C7H8BrN
reactant | TFA | 3 eq. | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 4-methyl morpholine | 3.2 mmol, 0.35 mL | CN1CCOCC1 | C5H11NO
reactant | 3-[(dipropylamino)carbonyl]-5-methylbenzoic acid | 0.9 mmol, 240 mg | C(CC)N(C(=O)C=1C=C(C(=O)O)C=C(C1)C)CCC | C15H21NO3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1 mmol, 190 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 1 mmol, 135 mg | O.ON1N=NC2=C1C=CC=C2
reactant | HCl | Cl | ClH
solvent | isopropanol | 7 mL | C(C)(C)O | C3H8O
solvent | DMF | 3 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | N1-[(1S,2R)-3-[(3-bromobenzyl)amino]-1-(cyclohexylmethyl)-2-hydroxypropyl]-5-methyl-N3,N3-dipropylisophthalamide hydrochloride | 0.32 mmol, 208 mg | Cl.BrC=1C=C(CNC[C@H]([C@H](CC2CCCCC2)NC(C2=CC(C(=O)N(CCC)CCC)=CC(=C2)C)=O)O)C=CC1 | InChI=1S/C32H46BrN3O3.ClH/c1-4-14-36(15-5-2)32(39)27-17-23(3)16-26(20-27)31(38)35-29(19-24-10-7-6-8-11-24)30(37)22-34-21-25-12-9-13-28(33)18-25;/h9,12-13,16-18,20,24,29-30,34,37H,4-8,10-11,14-15,19,21-22H2,1-3H3,(H,35,38);1H/t29-,30+;/m0./s1
